US06441052B1
4-Cyclopenta-2,4-dienylidenepentanoic acid (25 g; 0.15 mol; obtained according to Coe, J. W.; Vetelino, M. G.; Kemp, D. S., Tetrahedron Lett., 1994, 35, 6627.) in ethyl acetate (270 ml) was hydrogenated as in example 4 to give 23.6 g (92% yield) of crude 4-cyclopentylpentanoic acid which was used in the next step without further purification.

reactant | 4-Cyclopenta-2,4-dienylidenepentanoic acid | 0.15 mol, 25 g | C1(C=CC=C1)=C(CCC(=O)O)C | C10H12O2
solvent | ethyl acetate | 270 ml | C(C)(=O)OCC | C4H8O2
product | 4-cyclopentylpentanoic acid | 23.6 g, 92% yield | C1(CCCC1)C(CCC(=O)O)C | C10H18O2
